* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJU7076
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJU7076 +IN -IN V+ V- OUT
X_U1 +IN -IN V+ V- OUT NJU7076_s
.ends NJU7076
*$
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt NJU7076_s      1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 13 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1 
M2 12 NET1 14 14 PMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}

.MODEL DMOD1 D(T_MEASURED= 25 IS= 4.65E-56)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO=	-4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX=	1.30E-08 U0= 1.51E+02)
*
.PARAM
+ C1= 5.3E-11
+ C2= 1.60E-10
+ CS= 0.00E+00
+ GCM= 4.77E-08
+ GA= 1.51E-03
+ GB= 843.66
+ GC= 192835.2031
+ ITL= 8.00E-05
+ RS= 2.50E+06
+ RD1= 663.15
+ RD2= 663.15
+ RC= 5.19E-06
+ RS1= 38.79
+ RS2= 38.79
+ RO1= 50
+ RO2= 25
+ RP= 2.33E+04
+ VD= 0.828299
+ VS= 0.8282495
+ VOS= -76.81337E-06
+ IDS= 1.0E-3
+ VTL= 8.91E-01
+ VRD= 2.50E-01
+ L_VAL= 0.50E-06
+ W_VAL= 0.40E-03

.ends NJU7076_s
*$
